US04301276
To a suspension of 10 grams of L-fucose in 50 milliliters of pyridine is slowly added 50 milliliters of acetic anhydride. The mixture is stirred for 1 to 2 days at room temperature and then poured into a separatory funnel containing ice water. The resulting mixture is extracted 3 to 4 times with 50 milliliter portions of chloroform. The organic extracts are washed with water, aqueous sodium bicarbonate, and dried over magnesium sulfate. The mixture is filtered and the solvent removed under reduced pressure to give a residue of crude fucose tetraacetate. The crude tetraacetate is co-evaporated several times with toluene to remove any remaining pyridine or acetic acid. The fucose tetraacetate is then treated with 32% hydrogen bromide and acetic acid for 2 hours, and the mixture is then worked up similarly to that just described for the tetraacetate, i.e., chloroform extraction from an ice water mixture. The resultant crude product is 2,3,4-tri-O-acetyl-L-fucopyranosyl bromide.

reactant | L-fucose | 10 grams | O=C[C@@H](O)[C@H](O)[C@H](O)[C@@H](O)C | C6H12O5
reactant | acetic anhydride | 50 milliliters | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 milliliters | N1=CC=CC=C1 | C5H5N
product | fucose tetraacetate | C(C)(=O)O[C@H](C=O)[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](OC(C)=O)C | C14H20O9
